US06214609B1
Enzymatic Acylation of Ethyl 3-amino-4-pentynoate
In water(30 mL) were mixed ethyl 3-amino-4-pentynoate hydrochloride (258.3 mg, 1.5 mmoles), 30.6 mg (3.95 units) immobilized penicillin G amidohydrolase [Rohm-Pharma] and ethyl phenylacetate (205.7 mg, 1.25 mmoles). The initial pH (3.48) was adjusted to pH 6 with N NaOH (0.5 N) before addition of the ethyl phenylacetate. After 3 hours, an additional 0.9 mmole ethyl phenylacetate was added. This suspension was stirred vigorously at room temperature for six hours. Periodically, 1 mL samples were taken and diluted with acetonitrile and analyzed by reversed phase HPLC.

reactant | ethyl 3-amino-4-pentynoate hydrochloride | 1.5 mmoles, 258.3 mg | Cl.NC(CC(=O)OCC)C#C
reactant | penicillin G | 30.6 mg | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)O)C | C16H18N2O4S
reactant | ethyl phenylacetate | 1.25 mmoles, 205.7 mg | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
reactant | NaOH | 0.5 N | [OH-].[Na+]
reactant | ethyl phenylacetate | 0.9 mmole | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
solvent | water | 30 mL | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | Ethyl 3-amino-4-pentynoate | NC(CC(=O)OCC)C#C | C7H11NO2
